US07745414B2
4-Bromo-1-iodo-3-phenoxymethyl-benzene
Phenol (13 g) dissolved in 4 M KOH solution (60 mL) is added to 4-bromo-3-chloromethyl-1-iodo-benzene (41.0 g) dissolved in acetone (50 mL). NaI (0.5 g) is added and the resulting mixture is stirred at 50° C. overnight. Then, water is added and the resulting mixture is extracted with ethyl acetate. The combined extracts are dried and the solvent is evaporated under reduced pressure. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 19:1).

reactant | Phenol | 13 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-bromo-3-chloromethyl-1-iodo-benzene | 41.0 g | BrC1=C(C=C(C=C1)I)CCl | C7H5BrClI
reactant | NaI | 0.5 g | [Na+].[I-]
reactant | water | O | H2O
solvent | KOH | 4 M, 60 mL | [OH-].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 4-Bromo-1-iodo-3-phenoxymethyl-benzene | BrC1=C(C=C(C=C1)I)COC1=CC=CC=C1 | C13H10BrIO
